US04518532
A mixture of 202.4 mg (0.86 mmole) of 8-guanidino-2-octenamide hydrochloride, 302.4 mg (1.04 mmoles) of N-[4-(3-aminopropyl)aminobutyl]-2,2-dihydroxyethanamide dihydrochloride, 113.9 mg (0.86 mmole) of glutaric acid and 0.2 ml of water was heated at 60° C. for 24 hours. After completion of the reaction, the reaction mixture was purified in a manner similar to that in Example 1 using CM-Sephadex® C-25 (Na-type) and Sephadex® LH-20 to obtain 128.3 mg (29.2% yield) of N-[4-(3-aminopropyl)aminobutyl]-2-(8-guanidino-2-octenamido)-2-hydroxyethanamide trihydrochloride.

reactant | 8-guanidino-2-octenamide hydrochloride | 0.86 mmole, 202.4 mg | Cl.N(C(=N)N)CCCCCC=CC(=O)N
reactant | N-[4-(3-aminopropyl)aminobutyl]-2,2-dihydroxyethanamide dihydrochloride | 1.04 mmoles, 302.4 mg | Cl.Cl.NCCCNCCCCNC(C(O)O)=O
reactant | glutaric acid | 0.86 mmole, 113.9 mg | C(CCCC(=O)O)(=O)O | C5H8O4
solvent | water | 0.2 ml | O | H2O
product | N-[4-(3-aminopropyl)aminobutyl]-2-(8-guanidino-2-octenamido)-2-hydroxyethanamide trihydrochloride | 128.3 mg, 29.2% yield | Cl.Cl.Cl.NCCCNCCCCNC(C(O)NC(C=CCCCCCNC(=N)N)=O)=O | InChI=1S/C18H37N7O3.3ClH/c19-10-8-12-22-11-6-7-13-23-16(27)17(28)25-15(26)9-4-2-1-3-5-14-24-18(20)21;;;/h4,9,17,22,28H,1-3,5-8,10-14,19H2,(H,23,27)(H,25,26)(H4,20,21,24);3*1H
